US04125557
Preparation of 4,4'-Imidocarbonylbis[N,N-bis(2-hydroxyethyl)aniline] Hydrochloride
A mixture of 486.8 grams (1.3 moles) of 4,4'-methylenebis[N,N-bis(2-hydroxyethyl)aniline], 230 grams (7.2 moles) of sulfur and 800 grams of ethylene glycol was heated at 140° C. for 4 hours while a stream of ammonia gas was bubbled therein. To the reaction mixture was then added 170 grams (3.2 moles) of ammonium chloride and heating at 140° C. was continued for an additional 16 hours. The reaction mixture was cooled to 60° C., diluted with 3 liters of isopropanol, and added to diethyl ether to precipitate the dye. The dye was recovered by filtration, dissolved in 70° C. water and salted out by adding sodium chloride thereto. The resulting product was recovered and dried in vacuo. The dried tar was dissolved in 500 mls. of N,N-dimethylformamide, treated with activated carbon, filtered and precipitated by adding the filtrate to diethyl ether. This was repeated using 500 mls. of methanol. The resulting oil was recovered and triturated with isopropanol and diethyl ether to effect crystallization. The crystals were dried in vacuo to obtain 95 grams of product, which was found to be pure by thin layer chromatography.

reactant | 4,4'-methylenebis[N,N-bis(2-hydroxyethyl)aniline] | 1.3 moles, 486.8 grams | C(C1=CC=C(N(CCO)CCO)C=C1)C1=CC=C(N(CCO)CCO)C=C1 | C21H30N2O4
reactant | sulfur | 7.2 moles, 230 grams | [S] | S
reactant | ammonia | N | H3N
reactant | ammonium chloride | 3.2 moles, 170 grams | [Cl-].[NH4+]
solvent | isopropanol | 3 liters | C(C)(C)O | C3H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ethylene glycol | 800 grams | C(CO)O | C2H6O2
product | 4,4'-Imidocarbonylbis[N,N-bis(2-hydroxyethyl)aniline] Hydrochloride | 95 grams | Cl.C(=N)(C1=CC=C(N(CCO)CCO)C=C1)C1=CC=C(N(CCO)CCO)C=C1 | InChI=1S/C21H29N3O4.ClH/c22-21(17-1-5-19(6-2-17)23(9-13-25)10-14-26)18-3-7-20(8-4-18)24(11-15-27)12-16-28;/h1-8,22,25-28H,9-16H2;1H
